spice
* NPN Transistor Amplifier Circuit
Q1 2 Vin 0 NPN
* Resistors
RC 2 Vout 10k
RE 0 0 1k
* Voltage Sources
VCC VCC 2 DC 10V
? Missing component
* Simulation Control
.tran 1ms 10ms
.end
